US04406897
Preparation of 4-Acetylhydrazino-6-(4-Chlorophenyl)-2-hydroxy-1,3,5-triazine
Acetic anhydride (6 ml) is added to a suspension of 6-(4-chlorophenyl)-4-hydrazino-2-hydroxy-1,3,5-triazine in THF (500 ml) and the mixture stirred under reflux for 21/2 hours. The mixture is cooled to RT overnight and the solid filtered, washed with ether and air dried, yielding 13.95 g of the solid. The solid is washed in 500 ml of boiling dioxane, filtered, washed with ether and air dried, leaving 13.8 g of the acetyl hydrazine triazine, m.p. 250° C.

reactant | Acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-(4-chlorophenyl)-4-hydrazino-2-hydroxy-1,3,5-triazine | ClC1=CC=C(C=C1)C1=NC(=NC(=N1)O)NN | C9H8ClN5O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-Acetylhydrazino-6-(4-Chlorophenyl)-2-hydroxy-1,3,5-triazine | 13.95 g | C(C)(=O)NNC1=NC(=NC(=N1)C1=CC=C(C=C1)Cl)O | C11H10ClN5O2
